US04337353
A solution of 2.585 g of 2-methyl-3-(4-chlorobenzoyl)benzaldehyde and 5.49 g of ω-carbethoxyhexyl triphenyl phosphonium bromide in 25 ml of a 1:1 dimethylsulfoxidetetrahydrofuran mixture was added with stirring in 3 minutes to 520 mg of a 60% oil suspension of sodium hydride in 15 ml of a 1:1 dimethylsulfoxide-tetrahydrofuran mixture cooled to 2° C. and stirring was continued for 16 hours at 24° C. after the temperature had risen. The mixture was then cooled to 5° C. and 2 ml of acetic acid were added thereto. The solvents were removed and the residue was empasted with isopropyl ether and then filtered to remove insolubles. The filtrate was evaporated and the residue was saponified in a mixture of 50 ml of methanol and 15 ml of a 2 N sodium hydroxide solution at 80° C. for 1 hour. The methanol was removed and water was added. The mixture was extracted with ether and the aqueous phase was treated with activated carbon, filtered and acidified with concentrated hydrochloric acid. The oily residue was extracted with ether and the ether phase was washed with water, dried over magnesium sulfate, filtered and concentrated to dryness to obtain 2.98 g of 8-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-oct-7-enoic acid with an Rf=0.35 (8:2 CH2Cl2 -acetone mixture).

reactant | 2-methyl-3-(4-chlorobenzoyl)benzaldehyde | 2.585 g | CC1=C(C=O)C=CC=C1C(C1=CC=C(C=C1)Cl)=O | C15H11ClO2
reactant | sodium hydride | [H-].[Na+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | dimethylsulfoxide tetrahydrofuran | 15 ml | CS(=O)C.O1CCCC1
product | 8-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-oct-7-enoic acid | 2.98 g | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)C=CCCCCCC(=O)O)C)C=C1 | C22H23ClO3
